US05541195
(2R*,4S*)-2-Benzyl-1-((S)-N-acetyl-phenylalanyl)N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
35 μl (0.376 mmol) of acetic anhydride are added to a solution of 180 mg (0.313 mmol) of the mixture of (2R*,4S*)-2-benzyl-1-((S)-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine diastereomers in 2 ml pyridine at 0°, and the mixture is stirred at 0° for 2.5 hours. The oily residue after evaporation in a rotary evaporator is taken up in methylene chloride, washed with 5% aqueous citric acid and with 1N sodium bicarbonate solution. The organic phases are dried over magnesium sulfate and evaporated to dryness. The title compound is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.39, FD-MS: M+ =616.

reactant | acetic anhydride | 0.376 mmol, 35 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2R*,4S*)-2-benzyl-1-((S)-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C([C@@H](N)CC1=CC=CC=C1)=O | C33H33F3N4O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (2R*,4S*)-2-Benzyl-1-((S)-N-acetyl-phenylalanyl)N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C([C@@H](NC(C)=O)CC1=CC=CC=C1)=O | C35H35F3N4O3
